data/oMe_Silver.jsonl
{"reaction_id": "NR-122_1-C(=O)OC_2-c1ccc([N+](=O)[O-])cc1_3-c1cnccc1_4-c1ccc(cc1)c2ccccc2","name": "Knoevenagel Condensation","level": "medium","reactants_smiles": ["C(=O)(c1cnccc1)c1ccc(cc1)c2ccccc2","C(C(=O)OC)c1ccc([N+](=O)[O-])cc1"],"products_smiles": ["C(=C(C(=O)OC)c1ccc([N+](=O)[O-])cc1)(c1cnccc1)c1ccc(cc1)c2ccccc2"],"conditions": "C1CCNCC1","mechanism": [{"step": 1,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=[N+]1CCCCC1)(c1cnccc1)c1ccc(cc1)c2ccccc2","rationale": "Piperidine attacks the carbonyl carbon, forming an iminium ion; the nitrogen lone pair facilitates electrophilic activation by increasing carbonyl carbon's partial positive charge through resonance and inductive effects."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH-](C(=O)OC)c1ccc([N+](=O)[O-])cc1","rationale": "The basic nitrogen abstracts an acidic α-proton from C(=O)OC–c1ccc([N+](=O)[O-])cc1 methylene, stabilized by resonance with adjacent electron-withdrawing groups, generating a nucleophilic carbanion."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(N1CCCCC1)(c1cnccc1)c1ccc(cc1)c2ccccc2)(C(=O)OC)c1ccc([N+](=O)[O-])cc1","rationale": "The resonance-stabilized carbanion attacks the iminium carbon, favored by strong electrophilicity from the positively charged nitrogen and minimal steric hindrance at the reaction site."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C(N1CCCCC1)(c1cnccc1)c1ccc(cc1)c2ccccc2)(C(=O)OC)c1ccc([N+](=O)[O-])cc1","rationale": "Proton transfer regenerates the neutral amine and positions the intermediate for elimination, driven by the stability of the conjugated alkene product."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(C(=O)OC)c1ccc([N+](=O)[O-])cc1)(c1cnccc1)c1ccc(cc1)c2ccccc2","rationale": "Elimination of piperidine occurs as the leaving group is stabilized by its basicity and the formation of a conjugated C=C bond provides thermodynamic driving force."}],"description": "In the piperidine-catalyzed Knoevenagel condensation, the amine activates the carbonyl via iminium formation, while also deprotonating the active methylene compound to generate a nucleophile. Nucleophilic addition to the activated carbonyl is followed by proton transfers and elimination to yield the conjugated alkene."}
